US07709510B2
3-(4-butoxy-phenyl)-1-ethyl-1-(2-mercapto-thiazolo[5,4-b]pyridin-5-yl)-urea (Table 7, Entry 1)
Into 13×100 mm pyrex reaction vial were added 5-ethylamino-thiazolo[5,4-b]pyridine-2-thiol (105 mg, 0.49 mmol), anhydrous pyridine (2 ml), and 4-butoxyphenyl isocyanate (135 μl, 0.74 mmol). The reaction mixture was stirred 3.5 h, then concentrated. Purification by preparative TLC (40% EtoAc in Hexanes) gave 26 mg (13%) of the title compound. 1H NMR (DMSO-d6) δ=0.91 (t, 3H), 1.10 (t, 3H), 1.39 (m, 2H), 1.61 (m, 2H), 3.91 (m, 1H), 6.80 (d, 2H), 7.30 (m, 3H) 7.99 (br d, 1H), 9.43 (s, 1H); ESIMS: m/z 401 (M−H); mp 134.3-135 C.

reactant | 5-ethylamino-thiazolo[5,4-b]pyridine-2-thiol | 0.49 mmol, 105 mg | C(C)NC1=CC=C2C(=N1)SC(=N2)S | C8H9N3S2
reactant | 4-butoxyphenyl isocyanate | 0.74 mmol, 135 μl | C(CCC)OC1=CC=C(C=C1)N=C=O | C11H13NO2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-butoxy-phenyl)-1-ethyl-1-(2-mercapto-thiazolo[5,4-b]pyridin-5-yl)-urea | 26 mg, 13% | C(CCC)OC1=CC=C(C=C1)NC(N(C1=CC=C2C(=N1)SC(=N2)S)CC)=O | C19H22N4O2S2
